US07915261B2
4 M hydrogen chloride/EtOAc solution (5.0 ml) was dropwise added to an EtOAc (15 ml) solution of tert-butyl 4-[3-(4-isoquinolin-1-ylpiperazin-1-yl)propyl]piperidine-1-carboxylate (1.44 g), followed by stirring overnight. The solvent was evaporated, the solid was washed with EtOAc and collected by filtration to obtain 1-[4-(3-piperidin-4-ylpropyl)piperazin-1-yl]isoquinoline dihydrochloride (1.32 g) as a white solid.

reactant | hydrogen chloride EtOAc | 4 M, 5.0 ml | Cl.CCOC(=O)C
reactant | tert-butyl 4-[3-(4-isoquinolin-1-ylpiperazin-1-yl)propyl]piperidine-1-carboxylate | 1.44 g | C1(=NC=CC2=CC=CC=C12)N1CCN(CC1)CCCC1CCN(CC1)C(=O)OC(C)(C)C | C26H38N4O2
solvent | EtOAc | 15 ml | CCOC(=O)C | C4H8O2
product | 1-[4-(3-piperidin-4-ylpropyl)piperazin-1-yl]isoquinoline dihydrochloride | 1.32 g | Cl.Cl.N1CCC(CC1)CCCN1CCN(CC1)C1=NC=CC2=CC=CC=C12 | InChI=1S/C21H30N4.2ClH/c1-2-6-20-19(5-1)9-12-23-21(20)25-16-14-24(15-17-25)13-3-4-18-7-10-22-11-8-18;;/h1-2,5-6,9,12,18,22H,3-4,7-8,10-11,13-17H2;2*1H
